US03981932
To lithium aluminum hydride solution (3.9 M; 120 ml) diluted with anhydrous ether (750 ml) is added dropwise 150 g of ethyl 3-chloro-4-cyclohexylphenylglyoxylate with stirring, under nitrogen. The mixture is diluted with 250 ml of ether, and is stirred for 2 hours. The reaction mixture is acidified with 10% hydrochloric acid (450 ml) and extracted with ether/tetrahydrofuran. The aqueous fraction is washed three times with 50 ml portions of ether. The combined ether fractions are washed with water until neutral to litmus, and is dried over potassium carbonate. The ether is removed and the residue is triturated with n-hexane, filtered and air-dried to give 1-(3-chloro-4-cyclohexylphenyl)-1,2-ethanediol.

reactant | lithium aluminum hydride | 3.9 M, 120 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 3-chloro-4-cyclohexylphenylglyoxylate | 150 g | ClC=1C=C(C=CC1C1CCCCC1)C(C(=O)OCC)=O | C16H19ClO3
reactant | hydrochloric acid | 450 ml | Cl | ClH
solvent | ether | 750 ml | CCOCC | C4H10O
solvent | ether | 250 ml | CCOCC | C4H10O
product | 1-(3-chloro-4-cyclohexylphenyl)-1,2-ethanediol | ClC=1C=C(C=CC1C1CCCCC1)C(CO)O | C14H19ClO2
